US08748632B2
To a solution of 2-cyclopentyl-5-hydroxyisoindolin-1-one (50 mg, 0.23 mmol) in acetone (15 mL), K2CO3 (181 mg, 1.31 mmol) was added methyl 3′-(bromo-methyl)-4-chlorobiphenyl-3-carboxylate (92 mg, 0.27 mmol) and the mixture was heated at reflux for 1 h. The reaction mixture was filtered and the solvent was evaporated in vacuo to obtain methyl 4-chloro-3′-((2-cyclopentyl-1-oxoisoindolin-5-yloxy)methyl)biphenyl-3-carboxylate as a yellow oil.

reactant | 2-cyclopentyl-5-hydroxyisoindolin-1-one | 0.23 mmol, 50 mg | C1(CCCC1)N1C(C2=CC=C(C=C2C1)O)=O | C13H15NO2
reactant | K2CO3 | 1.31 mmol, 181 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 3′-(bromo-methyl)-4-chlorobiphenyl-3-carboxylate | 0.27 mmol, 92 mg | BrCC=1C=C(C=CC1)C1=CC(=C(C=C1)Cl)C(=O)OC | C15H12BrClO2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | methyl 4-chloro-3′-((2-cyclopentyl-1-oxoisoindolin-5-yloxy)methyl)biphenyl-3-carboxylate | ClC1=C(C=C(C=C1)C1=CC(=CC=C1)COC=1C=C2CN(C(C2=CC1)=O)C1CCCC1)C(=O)OC | C28H26ClNO4
